US05461026
3-(1-Acetoxy-2-chloroethyl)-2-pyridinesulfonamide
3.6 g of 3-(1-acetoxy-2-chloroethyl)-N-(1,1-dimethylethyl)-2-pyridinesulfonamide is added to 20 ml of trifluoroacetic acid and allowed to stir at 40° C. for 12 hours. The acid is evaporated and the crude product is purified by column chromatography to give the subject compound (3 g).

reactant | 3-(1-acetoxy-2-chloroethyl)-N-(1,1-dimethylethyl)-2-pyridinesulfonamide | 3.6 g | C(C)(=O)OC(CCl)C=1C(=NC=CC1)S(=O)(=O)NC(C)(C)C | C13H19ClN2O4S
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(1-Acetoxy-2-chloroethyl)-2-pyridinesulfonamide | 3 g | C(C)(=O)OC(CCl)C=1C(=NC=CC1)S(=O)(=O)N | C9H11ClN2O4S
